* Transistor Vth and I-V characteristic
.option scale=1E-6

* Include SkyWater sky130 device models
.include "../sky130_fd_pr__rf_nfet_01v8_lvt_aM04W5p00L0p15.spice"
.lib "../../../models/sky130.lib.spice" tt

* Gate bias
Rg 1 2 680
X1 3 2 0 0 sky130_fd_pr__rf_nfet_01v8_lvt_aM04W5p00L0p15 
Rd 3 4 100

* DC source for current measure
Vid 5 4 DC 0V
Vgb 1 0 DC 0V
Vdd 5 0 DC 3.3V

.control
* Sweep Vds from 0 to 1.8V
dc Vdd 0 1.8 0.01 Vgb 0 1.2 0.01
wrdata sky130_fd_pr__rf_nfet_01v8_lvt_aM04W5p00L0p15__iv.data Vid#branch V(1) V(3)

* Sweep Vgs from 0 to 1.2V
dc Vgb 0 1.2 0.01
# Find threshold
let ih=Vid#branch[98]
let il=Vid#branch[85]
let vh=V(2)[98]
let vl=V(2)[85]
let vth=((vl - vh) / (ih - il)) * ih + vh
echo threshold voltage
print vth
quit
.endc
.end
